US08242121B2
Methyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (E-2)
A solution of E-1 (5.9 kg, 21.37 mol) in iPAc was charged in a visually clean 100 L equipped with a mechanical stirrer and thermocouple. The solution was solvent switched to 2-MeTHF (˜35 L). Triethylamine (8.94 L, 64.1 mol) was added and the solution was degassed with N2. Pinacol borane (4.65 L, 32.1 mol) was added slowly (over 15 minutes) to the stirring solution while maintaining the purge. The solution was further degassed for 10 minutes and tri-o-tolylphosphine (0.325 kg, 1.069 mol) was added followed by palladium (II) acetate (0.120 kg, 0.534 mol). This caused the reaction to turn black immediately with a slow exotherm from 11.5° C. to 30° C. At this point a delayed exotherm was observed and the reaction temperature increased to 60° C. (over 45 minutes). The reaction temperature was increased to 77° C. and aged for another 45 minutes. At this point, HPLC analysis of a reaction aliquot revealed complete consumption of the starting material. The heat source was removed and an ice bath was placed under the flask to cool the reaction over 1.5 hours. A 26w % ammonium chloride solution is added very slowly to control gas evolution and exotherm (over 60 minutes) which caused a black precipitated to form. The supernatant was transferred to the extractor which already contained 40 L of water. The black slurry remaining was filtered on Solka Floc and washed with MTBE (˜20 L). The filtrate was loaded into the extractor. The layers were cut and assay of the organic layers revealed E-2 (4.45 kg, 16.11 mol, 75% yield) in 81.6% purity and was used as is in the following step.

reactant | 2-MeTHF | ˜35 L | CC1CCCO1 | C5H10O
reactant | Triethylamine | 64.1 mol, 8.94 L | C(C)N(CC)CC | C6H15N
reactant | Pinacol borane | 32.1 mol, 4.65 L | B.OC(C)(C)C(C)(C)O
reactant | tri-o-tolylphosphine | 1.069 mol, 0.325 kg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 40 L | O | H2O
catalyst | palladium (II) acetate | 0.534 mol, 0.120 kg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 75% yield | CC=1C=CC(=C(C(=O)OC)C1)B1OC(C(O1)(C)C)(C)C | C15H21BO4
